US04271071
A mixture of 123.0 g (1 mole) of o-anisidine, 260.0 g (2 moles) of ethylacetoacetate, 400 ml of isopropyl alcohol, 10.0 g of 1% Pt/C, 2.5 g of p-toluenesulfonic acid is treated in an autoclave at 165° C., with 1000 psi of hydrogen until the uptake of hydrogen ceases. The catalyst is removed by filtration. The solution is distilled under vacuum to yield 149.0 g of ethyl 3(2'-methoxyphenylamino)butyrate.

reactant | o-anisidine | 1 mole, 123.0 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | ethylacetoacetate | 2 moles, 260.0 g | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | hydrogen | [H][H] | H2
catalyst | Pt/C | 10.0 g | [Pt] | Pt
catalyst | p-toluenesulfonic acid | 2.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | isopropyl alcohol | 400 ml | C(C)(C)O | C3H8O
product | ethyl 3(2'-methoxyphenylamino)butyrate | 149.0 g | COC1=C(C=CC=C1)NC(CC(=O)OCC)C | C13H19NO3
